US09422235B2
4-(1-Acetyl-2,3-dihydro-1H-indol-6-ylamino)-N-cyclopropylmethyl-2-trifluoromethyl-benzenesulfonamide
A mixture of 4-Bromo-N-cyclopropylmethyl-2-trifluoromethyl-benzenesulfonamide (51 mg), Pd(OAc)2 (3.2 mg), BINAP (14 mg), cesium carbonate (55 mg) and 1-(6-Amino-2,3-dihydro-indol-1-yl)-ethanone (50 mg) in 15 ml toluene was relaxed for 12 hours. The reaction mixture was eluted through a silica bed with Toluene and then with PE:EtOAc (70:30). The toluene fraction was discarded and the solvent of the PE:EtOAc fraction was removed under reduced pressure. The crude product was purified by Combiflash (linear gradient PE-THF). Yield 32 mg, 49%.

reactant | 4-Bromo-N-cyclopropylmethyl-2-trifluoromethyl-benzenesulfonamide | 51 mg | BrC1=CC(=C(C=C1)S(=O)(=O)NCC1CC1)C(F)(F)F | C11H11BrF3NO2S
reactant | BINAP | 14 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | cesium carbonate | 55 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-(6-Amino-2,3-dihydro-indol-1-yl)-ethanone | 50 mg | NC1=CC=C2CCN(C2=C1)C(C)=O | C10H12N2O
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 3.2 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 4-(1-Acetyl-2,3-dihydro-1H-indol-6-ylamino)-N-cyclopropylmethyl-2-trifluoromethyl-benzenesulfonamide | C(C)(=O)N1CCC2=CC=C(C=C12)NC1=CC(=C(C=C1)S(=O)(=O)NCC1CC1)C(F)(F)F | C21H22F3N3O3S
